*$
* INA152
*****************************************************************************
* (C) Copyright 2023 Texas Instruments Incorporated. All rights reserved.     
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.      
** TI and its licensors and suppliers make no warranties, either expressed   
** or implied, with respect to this model, including the warranties of       
** merchantability or fitness for a particular purpose. The model is        
** provided solely on an "as is" basis. The entire risk as to its quality   
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: INA152
* Date: 07FEB2023
* Model Type: ALL IN ONE
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SBOS184
*
* Model Version: Final 1.1
*
*****************************************************************************
*
* Updates:
*
* Final 1.1
* Updated PSpice symbol.
*
* Final 1.0 : 
* Release to Web
*
*****************************************************************************
* PINOUT ORDER VIN+ VIN- +V -V OUT REF SENSE 
* PINOUT ORDER   3   2    7  4  6   1   5    
*****************************************************************************
.SUBCKT INA152 3 2 7 4 6 1 5
*****************************************************************************
C6 34 38 0.2E-12 
C7 35 39 1E-12 
C8 36 40 1E-12 
C12 20 6 21.8E-12 
C13 51 53 9E-12 
C14 32 0 1E-12 
C15 30 0 1E-12 
C16 6 0 1E-12 
C21 32 30 0.5E-12 
C23 57 45 5E-12 
D5 6 7 DD 
D6 4 6 DD 
D7 24 0 DIN 
D8 25 0 DIN 
D9 26 27 DVN 
D10 28 29 DVN 
D11 19 22 DD 
D12 10 19 DD 
D13 47 8 DD 
D14 58 49 DD 
D17 66 63 DD 
D18 64 65 DD 
D19 68 0 DD 
E2 10 0 4 0 1
E3 22 0 7 0 1
E4 30 31 26 28 0.3
E5 34 0 22 0 1
E6 35 0 10 0 1
E7 36 0 37 0 1
E10 41 33 40 0 0.07
E11 44 41 39 0 -0.03
E12 32 44 38 0 0.03
E14 45 10 22 10 0.5
E17 43 0 32 0 1
E18 42 0 31 0 1
E20 62 45 53 51 1
E23 22 55 22 66 1
E24 56 10 65 10 1
E25 16 22 7 17 -5.5
E26 14 10 18 4 3.1
G2 32 31 24 25 1.2E-7
G3 19 45 57 45 0.2E-3
G7 63 45 19 45 -1E-3
G8 45 64 19 45 1E-3
G9 45 65 54 10 1E-3
G10 66 45 22 50 1E-3
G11 7 4 67 0 -800E-6
I8 0 24 0.1E-3
I9 0 25 0.1E-3
I10 0 26 0.2E-6
I11 0 28 0.2E-6
I14 50 54 40E-6
I15 60 10 24.7E-6
I19 0 68 1E-3
I20 7 4 355E-6
I21 30 0 0.2E-12
I22 32 0 0.2E-12
J1 22 32 22 JX 
J2 22 30 22 JX 
J3 30 61 30 JX 
J4 32 61 32 JX 
M1 46 47 18 18 NOUT L=3U W=120U
M2 48 49 17 17 POUT L=3U W=50U
M3 50 50 21 21 POUT L=3U W=50U
M4 51 52 11 11 PIN L=3U W=90U
M5 53 30 13 13 PIN L=3U W=90U
M8 54 54 23 23 NOUT L=3U W=120U
M19 59 60 22 22 PIN L=6U W=500U
M23 60 60 22 22 PIN L=6U W=500U
Q15 58 15 22 QPL 
Q20 8 9 10 QNL 
R3 11 12 2 
R4 13 12 2 
R10 9 14 100 
R11 15 16 100 
R12 17 7 20 
R13 4 18 20 
R16 19 20 1.5E3 
R17 21 22 20 
R18 10 23 20 
R22 4 7 5E5 
R28 33 3 40E3 
R30 34 38 1E6 
R31 35 39 1E9 
R32 36 40 1E6 
R33 0 38 100 
R34 0 39 1E5 
R35 0 40 100 
R36 42 37 1E3 
R37 37 43 1E3 
R43 55 49 100 
R44 56 47 100 
R45 45 19 90E6 
R46 10 51 2E3 
R47 10 53 2E3 
R59 6 48 200 
R60 46 6 180 
R62 62 57 10E3 
R66 63 66 100E6 
R67 65 64 100E6 
R68 66 22 1E3 
R69 10 65 1E3 
R70 64 45 1E6 
R71 65 45 1E6 
R72 45 66 1E6 
R73 45 63 1E6 
R74 0 67 1E6 
R75 44 32 1E9 
R76 41 44 1E9 
R77 33 41 1E9 
R78 31 30 1E9 
R79 45 57 1E9 
R81 55 22 1E9 
R82 10 56 1E9 
R83 37 0 1E9 
R86 31 5 40.004E3 
R143 2 31 40E3 
R146 1 33 40.004E3 
R147 10 54 1E11 
R148 50 22 1E11 
R149 17 49 1E11 
R150 18 47 1E11 
R151 19 6 2E9 
R152 0 27 150E3 
R153 0 29 150E3 
V18 32 52 120E-6
V20 59 12 0.2
V23 68 67 0.71
V31 61 10 0.55
.MODEL JX NJF IS=1E-17
.MODEL DVN D KF=7E-18 IS=1E-16
.MODEL DIN D
.MODEL DD D
.MODEL QPL PNP
.MODEL QNL NPN
.MODEL POUT PMOS KP=200U VTO=-0.7
.MODEL NOUT NMOS KP=200U VTO=0.7
.MODEL PIN PMOS KP=200U VTO=-0.7
.MODEL NIN NMOS KP=200U VTO=0.7
.ENDS INA152
*
