*$
* INA159
*****************************************************************************
* (C) Copyright 2023 Texas Instruments Incorporated. All rights reserved.     
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.      
** TI and its licensors and suppliers make no warranties, either expressed   
** or implied, with respect to this model, including the warranties of       
** merchantability or fitness for a particular purpose. The model is        
** provided solely on an "as is" basis. The entire risk as to its quality   
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: INA159
* Date: 14FEB2023
* Model Type: ALL IN ONE
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SBOS333B - JULY 2005 - REVISED OCTOBER 2005
*
* Model Version: Final 1.1
*
*****************************************************************************
*
* Updates:
*
* Final 1.1
* 1. Updated PSpice symbol.
* 2. Updated Pin order.
*
* Final 1.0 : 
* Release to Web
*
*****************************************************************************
* Model Usage Notes:
* 1. The following parameters are modeled: 
*    CLOSED LOOP GAIN AND PHASE
*    OUTPUT VOLTAGE NOISE W 1/F
*    INPUT COMMON MODE VOLTAGE RANGE
*    CMRR WITH FREQUENCY EFFECTS
*    PSRR WITH FREQUENCY EFFECTS
*    SLEW RATE
*    SETTLING TIME TO 0.1%
*    QUIESCENT CURRENT
*    QUIESCENT CURRENT VS VOLTAGE
*    RAIL TO RAIL OUTPUT STAGE
*    HIGH CLOAD EFFECTS
*    CLASS AB BIAS IN OUTPUT STAGE
*    OUTPUT CURRENT THROUGH SUPPLIES
*    OUTPUT CURRENT LIMITING
*    OUTPUT CLAMPS TO RAILS
*    OUTPUT SWING VS OUTPUT CURRENT
*    OUTPUT SWING VS SUPPLY VOLT
*****************************************************************************
* PINOUT ORDER +IN -IN +V -V OUT REF1 REF2 SENSE
* PINOUT ORDER  3   2   7  4  6   1    8    5
*****************************************************************************
.SUBCKT INA159 3 2 7 4 6 1 8 5
*****************************************************************************
C6 31 36 2E-12 
C7 33 37 2E-12 
C8 34 38 8E-9 
C12 19 6 15E-12 
C13 49 51 1E-12 
C14 29 0 3E-12 
C15 27 0 3E-12 
C16 6 0 0.5E-12 
C21 29 63 2E-12 
C23 56 43 0.1E-12 
C50 28 5 5.4E-12 
C52 30 8 2.7E-12 
C53 30 1 2.7E-12 
D5 6 7 DD 
D6 4 6 DD 
D7 23 0 DIN 
D8 24 0 DIN 
D9 25 0 DVN 
D10 26 0 DVN 
D11 18 21 DD 
D12 11 18 DD 
D13 45 9 DD 
D14 57 47 DD 
D17 68 65 DD 
D18 66 67 DD 
D43 71 0 DD 
D44 75 74 DD 
D45 77 0 DD 
D61 79 80 DD 
D62 82 81 DD 
D63 83 81 DD 
E2 11 0 4 0 1
E3 21 0 7 0 1
E4 27 28 25 26 0.037
E5 31 0 32 0 1
E6 33 0 11 0 1
E7 34 0 35 0 1
E10 39 30 38 0 0.03E-6
E11 42 39 37 0 5E-3
E12 29 42 36 0 5E-3
E14 43 11 21 11 0.5
E17 41 0 29 0 1
E18 40 0 28 0 1
E20 64 43 51 49 1
E23 21 54 21 68 1
E24 55 11 67 11 1
E92 73 0 72 0 -571
E93 76 0 78 0 1
E118 82 0 28 29 20
E119 83 0 28 29 -20
E123 84 43 38 0 -2000
G2 29 28 23 24 2.8E-17
G3 18 43 56 43 0.2E-3
G7 65 43 18 43 -1E-3
G8 43 66 18 43 1E-3
G9 43 67 53 11 1E-3
G10 68 43 21 48 1E-3
G14 60 11 69 0 250E-6
G34 27 0 70 0 10E-12
G35 29 0 70 0 10E-12
I8 0 23 0.1E-3
I9 0 24 0.1E-3
I10 0 25 0.1E-3
I11 0 26 0.1E-3
I21 7 4 0.35E-3
I40 27 0 1E-12
I45 0 71 1E-3
I46 0 77 1E-3
I47 29 0 1E-12
I60 48 53 170E-6
J1 61 29 61 JNC 
J2 61 27 61 JNC 
J3 27 62 27 JNC 
J4 29 62 29 JNC 
M1 44 45 15 15 NOUT L=3U W=1200U
M2 46 47 17 17 POUT L=3U W=1400U
M3 48 48 20 20 POUT L=3U W=1400U
M4 49 50 12 12 PIN L=3U W=160U
M5 51 52 14 14 PIN L=3U W=160U
M8 53 53 22 22 NOUT L=3U W=400U
M19 59 60 32 32 PIN L=6U W=500U
M23 60 60 32 32 PIN L=6U W=500U
Q15 57 16 21 QLP 
Q20 9 10 11 QLN 
R3 12 13 20 
R4 14 13 20 
R10 10 15 1E3 
R11 16 17 1E3 
R12 17 7 7 
R13 4 15 7 
R16 18 19 300 
R17 20 21 7 
R18 11 22 7 
R22 4 7 18.5E3 
R28 30 3 100E3 
R30 31 36 1E5 
R31 33 37 1E5 
R32 34 38 1E5 
R33 0 36 10 
R34 0 37 10 
R35 0 38 10 
R36 40 35 1E3 
R37 35 41 1E3 
R43 54 47 100 
R44 55 45 100 
R45 43 18 60E6 
R46 11 49 2E3 
R47 11 51 2E3 
R59 6 46 28 
R60 44 6 28 
R62 64 56 1E4 
R66 65 68 100E6 
R67 67 66 100E6 
R68 68 21 1E3 
R69 11 67 1E3 
R70 66 43 1E6 
R71 67 43 1E6 
R72 43 68 1E6 
R73 43 65 1E6 
R75 42 29 1E9 
R76 39 42 1E9 
R77 30 39 1E9 
R78 28 27 1E9 
R79 43 56 1E9 
R81 54 21 1E9 
R82 11 55 1E9 
R83 35 0 1E9 
R149 28 5 20E3 
R155 48 21 1E8 
R156 11 53 1E8 
R157 15 45 1E8 
R158 17 47 1E8 
R159 63 27 100 
R225 52 27 5 
R226 50 58 5 
R293 0 72 1E6 
R294 0 73 1E6 
R295 74 73 1E6 
R296 0 78 1E6 
R300 0 70 1E9 
R301 0 70 1E9 
R372 30 8 40E3 
R373 2 28 100E3 
R377 0 69 1E12 
R378 81 79 1E3 
R379 0 81 1E6 
R380 81 82 1E12 
R381 81 83 1E12 
R388 84 18 60E6 
R389 60 32 1E12 
R390 0 69 1E12 
R391 0 38 1E12 
R392 30 1 40E3 
R393 0 80 1E12 
V18 29 58 12E-6
V21 59 13 0.9
V78 32 61 0
V79 62 11 0.15
V82 32 21 1.95
V111 71 72 0.7
V112 75 76 27
V113 74 70 26.4
V114 77 78 0.7
V133 69 79 1
V134 80 0 2.2
.MODEL DVN D KF=8E-12 IS=1E-16
.MODEL DD D
.MODEL DIN D
.MODEL QLN NPN
.MODEL QLP PNP
.MODEL JNC NJF
.MODEL POUT PMOS KP=200U VTO=-0.7
.MODEL NOUT NMOS KP=200U VTO=0.7
.MODEL PIN PMOS KP=200U VTO=-0.7
.MODEL NIN NMOS KP=200U VTO=0.7
.MODEL NIQ NMOS KP=200U VTO=0.7 IS=1E-18
.MODEL NEN NMOS KP=200U VTO=0.5 IS=1E-18
.MODEL PEN PMOS KP=200U VTO=-0.7 IS=1E-18
.MODEL PSW PMOS KP=200U VTO=-7.5 IS=1E-18
.MODEL NSW NMOS KP=200U VTO=7.5 IS=1E-18
.ENDS INA159
*
